US05665718
13 ml of hydrazine hydrate were added to a suspension of 7.0 g (23 mmol) of 8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-3-carboxylate in 70 ml of ethanol and the mixture was heated at reflux for 3 hours. After cooling to 0° the crystals obtained were filtered off and there were obtained 6.43 g (96%) of 8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid hydrazide as colourless needles of m.p. 288°-290°.

reactant | hydrazine hydrate | 13 ml | O.NN
reactant | 8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-3-carboxylate | 23 mmol, 7.0 g | FC=1C=CC2=C(C(N(CC=3N2C=NC3C(=O)[O-])C)=O)C1
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid hydrazide | 6.43 g, 96% | FC=1C=CC2=C(C(N(CC=3N2C=NC3C(=O)NN)C)=O)C1 | C13H12FN5O2
